US04098791
In the manner given in Example 2, methyl 4-methyl-1-piperidinecarbonitrile is treated with sodium methoxide in methanol to give methyl 4-methyl-1-piperidinecarboximidate.

reactant | methyl 4-methyl-1-piperidinecarbonitrile | CC1N(CCC(C1)C)C#N | C8H14N2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | methyl 4-methyl-1-piperidinecarboximidate | CC1CCN(CC1)C(OC)=N | C8H16N2O
